US05856344
b) Methyl 3-amino-4-(3-pyridyloxy)benzoate
71 g of methyl 3-nitro-4-(3-pyridyloxy)benzoate and 52 g of iron powder are stirred in 500 ml of MeOH and, at RT, 500 ml of saturated aqueous HCl solution are slowly added. The mixture is then stirred at RT for 2 h and then the volatile constituents are removed in vacuo. The residue is stirred with 300 ml of saturated aqueous Na2CO3 solution (pH=11), and the precipitate is filtered off with suction. This precipitate is then extracted by boiling twice with 500 ml of EA each time, and the filtrate is extracted twice with 500 ml of EA each time. The combined EA phase is washed twice with 500 ml of water each time and dried over Na2SO4, and the solvent is removed in vacuo. 30 g of yellow-brown crystals, mp 101° C., are obtained.

reactant | methyl 3-nitro-4-(3-pyridyloxy)benzoate | 71 g | [N+](=O)([O-])C=1C=C(C(=O)OC)C=CC1OC=1C=NC=CC1 | C13H10N2O5
reactant | HCl | 500 ml | Cl | ClH
solvent | MeOH | 500 ml | CO | CH4O
catalyst | iron | 52 g | [Fe] | Fe
product | Methyl 3-amino-4-(3-pyridyloxy)benzoate | 30 g | NC=1C=C(C(=O)OC)C=CC1OC=1C=NC=CC1 | C13H12N2O3
